US08455646B2
Preparation of (4-chloro-phenyl)-phenylamino-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester (C257)
(4-Chloro-phenyl)-phenylamino-acetic acid (I256) (1.22 g, 4.97 mmol), HOBT (0.99 g, 6.46 mmol) and DCC (1.33 g, 6.46 mmol) are dissolved in THF (250 mL). The reaction is stirred for 15 minutes and then (R)-quinuclidin-3-ol (1.26 g, 9.93 mmol) is added. The reaction is stirred at RT for 4 days. The solvent is evaporated and the residue is taken up with EtOAc. The insoluble is filtered off, the solution is washed with 1M K2CO3 and brine. The organic phase is dried (Na2SO4), filtered and evaporated to dryness. The crude is purified by flash chromatography (DCM/MeOH=98/2 to 90/10) to afford compound C259 as a yellow solid (462 mg, 25% yield).

reactant | (4-Chloro-phenyl)-phenylamino-acetic acid | 4.97 mmol, 1.22 g | ClC1=CC=C(C=C1)C(C(=O)O)NC1=CC=CC=C1 | C14H12ClNO2
reactant | HOBT | 6.46 mmol, 0.99 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 6.46 mmol, 1.33 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | (R)-quinuclidin-3-ol | 9.93 mmol, 1.26 g | N12C[C@@H](C(CC1)CC2)O | C7H13NO
solvent | THF | 250 mL | C1CCOC1 | C4H8O
product | (4-chloro-phenyl)-phenylamino-acetic acid (R)-(1-aza-bicyclo[2.2.2]oct-3-yl)ester | 462 mg, 25% yield | N12C[C@@H](C(CC1)CC2)OC(C(NC2=CC=CC=C2)C2=CC=C(C=C2)Cl)=O | C21H23ClN2O2
